US05405979
3,3-(Ethylenedioxy)-11β-[4'-(methylthio)[1,1'-biphenyl]-4-yl]-5-estren-17-one
1.73 g of 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one is dissolved in a mixture of 17 ml of toluene and 5 ml of ethanol and mixed in succession with 37 mg of palladiumtetrakistriphenylphosphine, 0.28 mg of lithium chloride, 4 ml of 2 m sodium carbonate solution and 0.7 g of [4-(methylthio)phenyl]boronic acid. The reaction mixture is then stirred for 6 hours at 95° C., cooled to room temperature and mixed with saturated sodium chloride solution. The organic phase is separated, washed in succession with 5% sodium hydroxide solution and water, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with a mixture of ethyl acetate/hexane. 1.65 g of the title compound is obtained as white foam.

reactant | 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one | 1.73 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)=O)OC1 | C27H31F3O6S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | [4-(methylthio)phenyl]boronic acid | 0.7 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | lithium chloride | 0.28 mg | [Cl-].[Li+]
product | 3,3-(Ethylenedioxy)-11β-[4'-(methylthio)[1,1'-biphenyl]-4-yl]-5-estren-17-one | 1.65 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)C2=CC=C(C=C2)SC)=O)OC1 | C33H38O3S
